reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])([H:11])[N:5]2[C@@:6]1([H:12])[O:7]2,71.83773799306479
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([H:10])[H:11])([O+:4]=[C-:3][N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])([H:8])[H:9],94.5021252154994
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C-:4]=[O+:5][C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],114.54663872048401
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:6](=[O:7])([H:14])[H:15].[H:10][H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:8])[H:9],86.04045654169649
[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7]>>[O:1]([C:2](=[N:3][N:4]([H:8])[H:9])[N+:6]#[C-:5])[H:7],91.3513862424333
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@:2]1([O:3]/[C:6](=[N:7]/[H:13])[H:12])[C:4]([H:10])([H:11])[O:5]1)([H:8])[H:9],61.211119016397895
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[N:3]([H:13])[C:4]([N-:5][H:14])=[C+:6][N:7]1[H:12])([H:8])([H:9])[H:10],88.23645742812559
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:4]([C:5](=[O:6])[H:14])[H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],63.95842150966437
[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](#[C:2][C:3]([C:4]([N+:6]#[C-:5])([H:10])[H:11])([H:8])[H:9])[H:7],59.8786686972258
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3]([O:4][H:14])=[C:5](\[C:6]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:13])[H:19],72.39914648180542
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]=[O:6])[H:13])([H:7])([H:8])[H:9].[H:14][H:15]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],46.19386233150671
[C:1]([O:6][C@@:5]1([H:14])[O:2][C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],73.46641226321482
[C:1]([O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:10].[N:2]#[C:3][H:11]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],81.05086072270899
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:4](=[C:5]([O:6][H:8])[H:14])([H:12])[H:13].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:7],62.6741435681894
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([O:6][C:5](=[O+:4][C-:3]([H:10])[H:11])[H:12])([H:8])[H:9])[H:7],104.52845295485099
[C:1]1([H:9])([H:10])[C@:2]2([O:3][H:11])[C@@:4]1([H:12])[O:5][C@@:6]2([O:7][H:8])[H:13]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],42.39776077130179
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[O:4])[H:8])([H:5])([H:6])[H:7].[C:3]([H:9])([H:10])([H:11])[H:12],82.98475296894041
[C:1]([C:2][C:7]([C@:4]1([C:3]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[O:6]1)([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],17.875561696543393
[O:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:8])[H:11])([H:9])[H:10])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],23.478991350044296
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]=[C:5]([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9],94.7908233836644
[C:1]([C:2]([O:3][H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]1([H:12])([H:13])[C:5]([H:14])([H:15])[O:6]1>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],54.61563426607489
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([C@:4]1([H:13])[C:5]([H:8])=[N:6]1)([H:11])[H:12])[H:10])([H:7])[H:9],91.870614608376
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1](/[C:2]([O:3][H:10])=[C:4](\[C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9],62.7843858964258
[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5]>>[O:1]([C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5],62.044372105791595
